US07851640B2
tert-butyl 3-(2-hydroxy-4-methylphenyl)-3-oxopropanoate:
Prepared according to above procedure using diisopropylamine (3.8 mL, 28 mmol), nBuLi (21 mL, 1.2 M), tert-butyl acetate (2.1 mL, 16 mmol), 2-hydroxy-4-methylbenzoyl chloride (5 mmol, prepared from 760 mg 4-methyl-salicylic acid and SOCl2, 1.2 mL, heated to 47° C. in 12 mL toluene for 4 h) yielding 327 mg (26%) as white needles. mp=88-90° C.; IR (film) 1733.8; 1652.6; 1145.0 cm−1; 1H NMR (500 MHz, CDCl3) δ 11.95 (s, 1H); 7.54 (d, J=8.2 Hz, 1H); 6.81 (s, 1H); 6.72 (d, J=8.2, 1H); 3.88 (s, 2H); 2.36 (s, 3H); 1.45 (s, 9H); 13C NMR (125 MHz, CDCl3) δ 198.5, 166.5, 163.0, 148.9, 130.5, 120.7, 118.8, 117.2, 82.6, 47.4, 28.1, 22.2; LRMS (electrospray): Mass calculated for C14H18O4, [M]+, 250.12. Found [M+23]+, 272.9.

reactant | diisopropylamine | 28 mmol, 3.8 mL | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 1.2 M, 21 mL | [Li]CCCC
reactant | tert-butyl acetate | 16 mmol, 2.1 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 2-hydroxy-4-methylbenzoyl chloride | 5 mmol, 1.2 mL, 760 mg | OC1=C(C(=O)Cl)C=CC(=C1)C | C8H7ClO2
product | tert-butyl 3-(2-hydroxy-4-methylphenyl)-3-oxopropanoate | OC1=C(C=CC(=C1)C)C(CC(=O)OC(C)(C)C)=O | C14H18O4
